US05800733
4.2 g of N,N'-dicyclohexylcarbodiimide were added within 5 minutes while stirring to a solution of 5.2 g of trans-4-(trans-4-[3-hydroxypropyl]cyclohexyl)cyclohexanecarboxylic acid, 1.2 g of acrylic acid and 0.2 g 4-(dimethylamino)pyridine in 25 ml of dichloromethane. The reaction mixture was stirred overnight, filtered and then concentrated. Chromatography of the residue on silica gel with hexane/ethyl acetate (vol. 8:2) and recrystallization from ethyl alcohol of the fractions which were pure according to thin-layer chromatography gave 4.2 g of trans-4-(trans-4-[3-acryloyloxypropyl]cyclohexyl)cyclohexanecarboxylic acid.

reactant | N,N'-dicyclohexylcarbodiimide | 4.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | trans-4-(trans-4-[3-hydroxypropyl]cyclohexyl)cyclohexanecarboxylic acid | 5.2 g | OCCC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(=O)O | C16H28O3
reactant | acrylic acid | 1.2 g | C(C=C)(=O)O | C3H4O2
catalyst | 4-(dimethylamino)pyridine | 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | trans-4-(trans-4-[3-acryloyloxypropyl]cyclohexyl)cyclohexanecarboxylic acid | 4.2 g | C(C=C)(=O)OCCC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(=O)O | C19H30O4
